US04201790
A mixture of 2-(2,3-epoxypropoxy)-4,4',6-trimethylbenzophenone (10.0 g.), isopropylamine (10 ml.) and anhydrous methanol (50 ml.) was heated at reflux for 17 hours. The solution was then evaporated in vacuo, and the residue was dissolved in water (100 ml.) containing concentrated hydrochloric acid (10 ml.). The solution was adjusted to a pH between 6 and 7 and was shaken with ethyl acetate. The aqueous phase was then adjusted to pH 12 by the addition of aqueous sodium hydroxide solution. The precipitated oil was extracted with ethyl acetate and the extract was washed with water, dried over anhydrous sodium sulphate and evaporated. The residue was dissolved in a hot mixture of light petroleum (b.p. 40°-60° C.; 75 ml.) and cyclohexane (3 ml.) and allowed to cool slowly. The solid was filtered off and recrystallized from cyclohexane (25 ml.) to give DL-1-(3,5-dimethyl-2-p-toluoylphenoxy)-2-hydroxy-3-isopropylaminopropane (5.9 g.), m.p. 89°-91° C.

reactant | 2-(2,3-epoxypropoxy)-4,4',6-trimethylbenzophenone | 10.0 g | O1C(COC2=C(C(=O)C3=CC=C(C=C3)C)C(=CC(=C2)C)C)C1 | C19H20O3
reactant | isopropylamine | 10 ml | C(C)(C)N | C3H9N
solvent | methanol | 50 ml | CO | CH4O
product | 1-(3,5-dimethyl-2-p-toluoylphenoxy)-2-hydroxy-3-isopropylaminopropane | 5.9 g | CC=1C(=C(OCC(CNC(C)C)O)C=C(C1)C)C(=O)C1=CC=C(C=C1)C | C22H29NO3
